US09056873B2
Step D: 3-(Difluoromethyl)-5-(tributylstannyl)isothiazole
To a cold (−78° C.) solution of 3-(difluoromethyl)isothiazole (93 mg, 0.688 mmol) in anhydrous THF (2.0 mL) was added n-butyllithium (0.473 mL, 0.757 mmol) dropwise. The reaction mixture was stirred for 60 minutes at −78° C. A solution of tributylchlorostannane (0.223 mL, 0.826 mmol) in anhydrous THF (0.5 mL) was added and the reaction mixture was stirred for 30 minutes at −78° C. The solution was subsequently allowed to warm to room temperature over a period of about one hour. Saturated aq NaHCO3 was added, and the aqueous phase was extracted with EtOAc. The organic phases were combined, dried over anhydrous sodium sulfate, passed through a short pad of silica gel (eluting with EtOAc) and evaporated in vacuo to give the title compound, which was used without further purification.

reactant | 3-(difluoromethyl)isothiazole | 0.688 mmol, 93 mg | FC(C1=NSC=C1)F | C4H3F2NS
reactant | n-butyllithium | 0.757 mmol, 0.473 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 0.826 mmol, 0.223 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(Difluoromethyl)-5-(tributylstannyl)isothiazole | FC(C1=NSC(=C1)[Sn](CCCC)(CCCC)CCCC)F | InChI=1S/C4H2F2NS.3C4H9.Sn/c5-4(6)3-1-2-8-7-3;3*1-3-4-2;/h1,4H;3*1,3-4H2,2H3;
